US05153210
A solution of methyl 3-(4-acetonylphenyl)-2,3-dibromopropionate, ethylene ketal (4.2 g) in methanol (25 ml) was added dropwise to a stirred mixture of hydroxylamine hydrochloride (0.86 g) and potassium hydroxide (3.9 g) in methanol: water (150 ml) at ambient temperature and stirred for 1 h. The reaction mixture was then heated under reflux for 7 h, cooled, acidified with sulphuric acid (50%), filtered, and the solvent removed under reduced pressure. The residue was partitioned between ethylacetate and water, dried (magnesium sulphate), filtered and evaporated to dryness in vacuo. The residue was purified by column chromatography on silica using chloroform as eluent, and crystallised from diethylether-(60°-80°)petroleum ether to give 5-(4-acetonylphenyl)-3-hydroxyisoxazole (0.5 g).

reactant | methyl 3-(4-acetonylphenyl)-2,3-dibromopropionate | C(C(=O)C)C1=CC=C(C=C1)C(C(C(=O)OC)Br)Br | C13H14Br2O3
reactant | hydroxylamine hydrochloride | 0.86 g | Cl.NO
reactant | potassium hydroxide | 3.9 g | [OH-].[K+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 5-(4-acetonylphenyl)-3-hydroxyisoxazole | 0.5 g | C(C(=O)C)C1=CC=C(C=C1)C1=CC(=NO1)O | C12H11NO3
